US05736568
A solution of lithium aluminium hydride in THF (790 ml of a 1M solution) was stirred under nitrogen at ambient temperature and diluted with dry THF (1 l) and then a solution of 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chlorobenzonitrile (237 g) in dry THF (200 ml) was added over 30 minutes. When approximately three-quarters of the solution had been added an exotherm was observed and this was checked by cooling the reaction mixture in an ice/water bath. The mixture was stirred for 1 hour after the addition and then quenched by the cautious addition of water (30 ml), 15% sodium hydroxide solution (30 ml) and water (90 ml). The mixture was diluted with ethyl acetate (1 l) and filtered through a filter aid. The filter aid was boiled with ethyl acetate (2×500 ml) and filtered through a filter aid. The combined filtrates were dried and evaporated to give 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chlorobenzylamine as an oil.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chlorobenzonitrile | 237 g | C(C1=CC=CC=C1)N(C)CCOC1=C(C#N)C(=CC=C1)Cl | C17H17ClN2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 l | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chlorobenzylamine | C(C1=CC=CC=C1)N(C)CCOC1=C(CN)C(=CC=C1)Cl | C17H21ClN2O
